US08232286B2
TRANS-4-(4-METHANESULPHONYL-PIPERAZIN-1-YL)-CYCLOHEXYLAMINE
14 g (47 mmol) 4-dibenzylamino-cyclohexanone, 8.5 g (51 mmol) 1-methanesulphonyl-piperazine and 17.5 g (78 mmol) sodium triacetoxyborohydride are stirred in 250 ml dichloromethane for 4 hours at ambient temperature. Then the reaction mixture is combined with 200 ml of water and 20 g potassium carbonate. The organic phase is separated off, dried and evaporated to dryness. The residue is purified by chromatography. Yield: 4.8 g trans-isomer 4.8 g (11 mmol) trans-dibenzyl-[4-(4-methanesulphonyl-piperazin-1-yl)-cyclohexyl]-amine are dissolved in 100 ml of methanol and 2 g palladium/charcoal (10%) are added. The mixture is hydrogenated at 50 psi and 50° C. Then the catalyst is suction filtered, the mother liquor is concentrated by evaporation. The precipitate formed is suction filtered and washed with diethyl ether. Yield: 2.4 g

reactant | 4-dibenzylamino-cyclohexanone | 47 mmol, 14 g | C(C1=CC=CC=C1)N(C1CCC(CC1)=O)CC1=CC=CC=C1 | C20H23NO
reactant | 1-methanesulphonyl-piperazine | 51 mmol, 8.5 g | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | sodium triacetoxyborohydride | 78 mmol, 17.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | trans-dibenzyl-[4-(4-methanesulphonyl-piperazin-1-yl)-cyclohexyl]-amine | 11 mmol, 4.8 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)N1CCN(CC1)S(=O)(=O)C)CC1=CC=CC=C1 | C25H35N3O2S
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium/charcoal | 2 g | [Pd] | Pd
solvent | water | 200 ml | O | H2O
product | TRANS-4-(4-METHANESULPHONYL-PIPERAZIN-1-YL)-CYCLOHEXYLAMINE | CS(=O)(=O)N1CCN(CC1)[C@@H]1CC[C@H](CC1)N | C11H23N3O2S
